US07053212B2
Step A: N-[2-Chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-3,3-dimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-butyramide
To a solution of [2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl)-amine (0.100 g, 0.232 mmol) and triethylamine (0.100 mL, 0.696 mmol) in 2 mL methylene chloride was added tert-butylacetyl chloride (0.081 mL, 0.58 mmol) dropwise. The reaction mixture was stirred for 1 hr. at room temperature. Saturated aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was extracted with an additional 2 mL of methylene chloride. The combined organic layers were concentrated to give the title compound of Step A. MS 529.2 (M+1)+

reactant | [2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl)-amine | 0.232 mmol, 0.100 g | ClC1=C(CNC2=CC=C(C=C2)OCCN2CCCC2)C=CC(=C1)OC1OCCCC1 | C24H31ClN2O3
reactant | triethylamine | 0.696 mmol, 0.100 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylacetyl chloride | 0.58 mmol, 0.081 mL | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[2-Chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-3,3-dimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-butyramide | ClC1=C(CN(C(CC(C)(C)C)=O)C2=CC=C(C=C2)OCCN2CCCC2)C=CC(=C1)OC1OCCCC1 | C30H41ClN2O4
